US07429597B2
(a) 4,6-dichloro-7-(2.5-dihydropyrrol-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 2c from 4,6-dichloro-quinazoline-7-carboxylic acid chloride, pyrroline and sodium hydroxide solution in dichloromethane

reactant | 4,6-dichloro-quinazoline-7-carboxylic acid chloride | ClC1=NC=NC2=CC(=C(C=C12)Cl)C(=O)Cl | C9H3Cl3N2O
reactant | pyrroline | N1C=CCC1 | C4H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,6-dichloro-7-(2.5-dihydropyrrol-1-yl-carbonyl)-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)Cl)C(=O)N1CC=CC1 | C13H9Cl2N3O
